US05652237
2-[Ethyl-(2-iodo-phenyl)-amino]-benzo[d][1,3]oxazin-4-one
2-(2-Iodo-phenyl)-amino]-benzo[d][1,3]oxazin-4-one (0.308 g, 0.00085 mol) was dissolved in THF (5 mL), and NaH (0.040 g, 0.0010 mol) was added. The reaction was stirred for 30 minutes and ethyl iodide (0.312 g, 0.0020 mol) was added. The reaction was heated to 60° C. and stirred for 24 hours under a nitrogen atmosphere. The reaction mixture was partitioned between H2O (200 mL) and ethyl acetate (200 mL). The ethyl acetate layer was dried (MgSO4), filtered, and concentrated in vacuo. The crude residue was chromatographed on a silica gel column eluted with petroleum ether:ethyl acetate (7:3). The product was recrystallized from ether/hexanes to produce the target compound as a white solid, mp 129°-130° C.).

reactant | benzo[d][1,3]oxazin-4-one | 0.00085 mol, 0.308 g | N1=COC(C2=C1C=CC=C2)=O | C8H5NO2
reactant | NaH | 0.0010 mol, 0.040 g | [H-].[Na+]
reactant | ethyl iodide | 0.0020 mol, 0.312 g | C(C)I | C2H5I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[Ethyl-(2-iodo-phenyl)-amino]-benzo[d][1,3]oxazin-4-one | C(C)N(C=1OC(C2=C(N1)C=CC=C2)=O)C2=C(C=CC=C2)I | C16H13IN2O2
